US08278316B2
E. 5-((4-Chlorophenylthio)methyl)-2-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyridazin-3(2H)-one
To a mixture of 5-((4-chlorophenylthio)methyl)pyridazin-3(2H)-one Part D (60 mg, 0.24 mmol), copper(II) acetate (95 mg, 0.48 mmol), and 4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenylboronic acid Part D of Procedure 4 (114 mg, 0.48 mmol) in CH2Cl2 (20 mL) stirring at RT open to air was added pyridine (1.92 mL, 23.74 mmol) in portions over 4 hours. The mixture was poured into 3.0 N aqueous HCl (100 mL) and extracted with CH2Cl2. The CH2Cl2 layer was dried over Na2SO4 and concentrated. The crude product was subjected to flash chromatography (silica gel/hexane-EtOAc 100:0 to 0:100 gradient, using LC-MS to identify fractions containing the desired product). This material was further purified by preparative HPLC (C18 column/Water:MeOH:TFA 90:10:0.1 to 10:90:0.1 gradient). The clean fractions were lyophilized using MeCN/H2O (1:1, 10 mL) to obtain the title compound 5-((4-chlorophenylthio)methyl)-2-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyridazin-3(2H)-one E-1 (57 mg, 53% yield) as white solid. LC/MS 447 (M+H)+, tR 0.95 min (method 5); 1H NMR (400 MHz, Chloroform-D) δ ppm 7.85 (1H, d, J=2.26 Hz), 7.30 (4H, s), 7.09-7.14 (2H, m), 6.96 (1H, d, J=9.29 Hz), 6.68-6.72 (1H, m), 3.87 (7H, t, J=5.40 Hz), 1.35 (6H, s).

reactant | 5-((4-chlorophenylthio)methyl)pyridazin-3(2H)-one | ClC1=CC=C(C=C1)SCC1=CC(NN=C1)=O | C11H9ClN2OS
reactant | 4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenylboronic acid | OC(COC1=C(C=C(C=C1)B(O)O)OC)(C)C | C11H17BO5
reactant | pyridine | 23.74 mmol, 1.92 mL | N1=CC=CC=C1 | C5H5N
reactant | HCl | 3.0 N, 100 mL | Cl | ClH
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | copper(II) acetate | 0.48 mmol, 95 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 5-((4-chlorophenylthio)methyl)-2-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyridazin-3(2H)-one | ClC1=CC=C(C=C1)SCC1=CC(N(N=C1)C1=CC(=C(C=C1)OCC(C)(C)O)OC)=O | C22H23ClN2O4S
